US09340544B2
N-(4-Fluoro-phenyl)-formamide
Was prepared according to Example 2 from 4-fluoroaniline and formic acid.

reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | formic acid | C(=O)O | CH2O2
product | N-(4-Fluoro-phenyl)-formamide | FC1=CC=C(C=C1)NC=O | C7H6FNO
